US05428168
Thionyl chloride (2.4 ml, 33 mmol) was added dropwise to a stirred solution of 3-(4-chlorobenzoyl)propionic acid (5.0 g, 24 mmol) in dry methanol (50 ml) at 0° C. The mixture was heated at reflux for 2 h, cooled and the solvent removed under reduced pressure to give methyl 3-(4-chlorobenzoyl)propionate (5.3 g, 97%) as a colourless oil. deltaH (250 MHz, CDCl3) 7.93 (2H, d, J 8.5 Hz), 7.45 (2H, d, J 8.6 Hz), 3.72 (3H, s), 3.29 (2H, t, J 6.6 Hz), 2.78 (2H, t, J 6.6 Hz).

reactant | Thionyl chloride | 33 mmol, 2.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(4-chlorobenzoyl)propionic acid | 24 mmol, 5.0 g | ClC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9ClO3
reactant | methanol | 50 ml | CO | CH4O
product | methyl 3-(4-chlorobenzoyl)propionate | 5.3 g, 97% | ClC1=CC=C(C(=O)CCC(=O)OC)C=C1 | C11H11ClO3
